US07314935B2
B. (7R,8R,9R)-10-Acetyl-7,8-dihydroxy-2,3-dimethyl-9-phenyl-7,8,9,10-tetrahydroimidazo[1,2-h][1,7]naphthyridine
0.2 g (0.6 mmol) of (8R,9R)-10-acetyl-8-hydroxy-2,3-dimethyl-9-phenyl-7,8,9,10-tetrahydroimidazo[1,2-h][1,7]naphthyridin-7-one is dissolved in 15 ml of methanol and admixed with 40 mg (1.1 mmol) of sodium borohydride in portions with ice cooling. After 10 min, hydrolysis is effected using saturated sodium hydrogencarbonate solution and extraction using dichloromethane. The organic phase is dried over magnesium sulphate and evaporated. The residue is crystallized using diethyl ether. 0.16 g (80%) of the title compound is isolated as a colourless solid (m.p. 260-261° C.).

reactant | (8R,9R)-10-acetyl-8-hydroxy-2,3-dimethyl-9-phenyl-7,8,9,10-tetrahydroimidazo[1,2-h][1,7]naphthyridin-7-one | 0.6 mmol, 0.2 g | C(C)(=O)N1[C@@H]([C@H](C(C=2C=CN3C(C12)=NC(=C3C)C)=O)O)C3=CC=CC=C3 | C20H19N3O3
reactant | sodium borohydride | 1.1 mmol, 40 mg | [BH4-].[Na+]
solvent | methanol | 15 ml | CO | CH4O
product | (7R,8R,9R)-10-Acetyl-7,8-dihydroxy-2,3-dimethyl-9-phenyl-7,8,9,10-tetrahydroimidazo[1,2-h][1,7]naphthyridine | 0.16 g, 80% | C(C)(=O)N1[C@@H]([C@H]([C@@H](C=2C=CN3C(C12)=NC(=C3C)C)O)O)C3=CC=CC=C3 | C20H21N3O3
